US09102625B2
To a solution of 4,6-dichloronicotinamide (296 mg, 1.55 mmol) in AcCN (3 mL) was added 3-iodobenzylamine (396 mg, 1.70 mmol) and DIPEA (0.383 mL, 2.32 mmol). After stirring at 80° C. for 15 h, the mixture was concentrated and added water, the resulting precipitate was collected by filtration to give 6-chloro-4-(3-iodobenzylamino)nicotinamide (588 mg).

reactant | 4,6-dichloronicotinamide | 1.55 mmol, 296 mg | ClC1=CC(=NC=C1C(=O)N)Cl | C6H4Cl2N2O
reactant | 3-iodobenzylamine | 1.70 mmol, 396 mg | IC=1C=C(CN)C=CC1 | C7H8IN
reactant | DIPEA | 2.32 mmol, 0.383 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | AcCN | 3 mL | C(=O)(C)C#N | C3H3NO
product | 6-chloro-4-(3-iodobenzylamino)nicotinamide | 588 mg | ClC1=NC=C(C(=O)N)C(=C1)NCC1=CC(=CC=C1)I | C13H11ClIN3O
